US04391821
3.7 g 1,2-epoxy-3-(2-methyl-4H-1-benzopyrane-4-one-7-yloxy)-propane and 2.5 cm3 2-propylamine were boiled in 40 cm3 ethanol for 2 hours; the process of example 9 (a) was followed. 4.3 g 1-(2-methyl-4H-1-benzopyrane-4-one-7-yloxy)-3-(1-methylethyl-amino)-2-propanol (m.p. 80°-82° C.) was obtained in the form of a base.

reactant | 1,2-epoxy-3-(2-methyl-4H-1-benzopyrane-4-one-7-yloxy)-propane | 3.7 g | O1CC1COC1=CC2=C(C(C=C(O2)C)=O)C=C1 | C13H12O4
reactant | 2-propylamine | 2.5 cm3 | CC(C)N | C3H9N
solvent | ethanol | 40 cm3 | C(C)O | C2H6O
product | 1-(2-methyl-4H-1-benzopyrane-4-one-7-yloxy)-3-(1-methylethyl-amino)-2-propanol | 4.3 g | CC=1OC2=C(C(C1)=O)C=CC(=C2)OCC(CNC(C)C)O | C16H21NO4
